US08957203B2
Preparation of intermediate 1-chloro-3-(5-isopropoxypyridin-2-yl)-6-methoxyisoquinoline
A solution of 3-(5-isopropoxypyridin-2-yl)-6-methoxyisoquinolin-1-ol (4 g, 12.89 mmol) in POCl3 (20 mL) was refluxed for 2 hs. After concentration, the residue was taken into the mixture of DCM and 4N NaOH solution. The organic phase was collected and dried over sodium sulfate, filtered, then concentrated under vacuum. The crude material was purified by silica gel chromatography using CH2Cl2 as eluent to give 3.4 g of the desired product 1-chloro-3-(5-isopropoxypyridin-2-yl)-6-methoxyisoquinoline as a solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.49 (s, 1H), 8.39 (d, J=8.8 Hz, 1H), 8.33 (d, J=2.5 Hz, 1H), 8.19 (d, J=9.1 Hz, 1H), 7.29 (dd, J=8.8, 3.0 Hz, 1H), 7.23 (dd, J=6.8, 2.5 Hz, 1H), 7.16 (d, J=2.3 Hz, 1H), 4.65 (spt, J=6.0 Hz, 1H), 3.94 (s, 3H), 1.38 (d, J=6.3 Hz, 6H).

reactant | 3-(5-isopropoxypyridin-2-yl)-6-methoxyisoquinolin-1-ol | 12.89 mmol, 4 g | C(C)(C)OC=1C=CC(=NC1)C=1N=C(C2=CC=C(C=C2C1)OC)O | C18H18N2O3
reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-3-(5-isopropoxypyridin-2-yl)-6-methoxyisoquinoline | 3.4 g | ClC1=NC(=CC2=CC(=CC=C12)OC)C1=NC=C(C=C1)OC(C)C | C18H17ClN2O2
